US06376501B1
70 mg (0.47 mmol) of 2-methyladenine was dissolved in a mixed solvent composed of DMF (15 ml) and water (5 ml). To this solution, 0.26 g (1.88 mmol) of potassium carbonate and 0.5 ml (about 2 mmol) of benzyl bromide were added and stirred at room temperature for 16 hr. After the solvent was removed by vacuum distillation, the residue was extracted with chloroform, dried over anhydrous magnesium sulfate and then concentrated. The resultant residue was purified by column chromatography (eluent:dichloromethane:methanol=50:1-30:1) to thereby obtain 0.12 g of 9-benzyl-2-methyladenine.

reactant | 2-methyladenine | 0.47 mmol, 70 mg | CC1=NC(=C2NC=NC2=N1)N | C6H7N5
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 1.88 mmol, 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | about 2 mmol, 0.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 5 ml | O | H2O
product | 9-benzyl-2-methyladenine | 0.12 g | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)N)C | C13H13N5
